US07728030B2
N-[(1R,2S)-1-(4-ethylphenyl)-1-[1-(4-fluorophenyl)indazol-5-yl]oxy-propan-2-yl]-2-hydroxy-acetamide
Prepared as described in Example 5 using (1R,2S)-1-(4-ethylphenyl)-1-{[1-(4-fluorophenyl)-1H-indazol-5-yl]oxy}propan-2-amine (20 mg, 50 μmol) and 2-chloro-2-oxoethyl acetate (21 mg, 150 μmol). Yield 21 mg (91%).

reactant | (1R,2S)-1-(4-ethylphenyl)-1-{[1-(4-fluorophenyl)-1H-indazol-5-yl]oxy}propan-2-amine | 50 μmol, 20 mg | C(C)C1=CC=C(C=C1)[C@H]([C@H](C)N)OC=1C=C2C=NN(C2=CC1)C1=CC=C(C=C1)F | C24H24FN3O
reactant | 2-chloro-2-oxoethyl acetate | 150 μmol, 21 mg | C(C)(=O)OCC(=O)Cl | C4H5ClO3
product | N-[(1R,2S)-1-(4-ethylphenyl)-1-[1-(4-fluorophenyl)indazol-5-yl]oxy-propan-2-yl]-2-hydroxy-acetamide | C(C)C1=CC=C(C=C1)[C@H]([C@H](C)NC(CO)=O)OC=1C=C2C=NN(C2=CC1)C1=CC=C(C=C1)F | C26H26FN3O3
